US07642264B2
2-(3-Bromo-phenyl)-4-methyl-6-(4-trifluoromethyl-phenyl)-pyridine
The title compound was prepared from trifluoro-methanesulfonic acid 4-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-2-yl ester (example A.55) (1.6 g, 4.15 mmol) and commercially available 3-bromobenzeneboronic acid (0.751 g, 3.74 mmol) according to the general procedure Iba. Obtained as a light yellow oil (1.39 g, 85%). MS (ISP) 392.0 [(M+H)+] and 394.1 [(M+2+H)+].

reactant | trifluoro-methanesulfonic acid 4-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-2-yl ester | 4.15 mmol, 1.6 g | CC1=CC(=NC(=C1)C1=CC=C(C=C1)C(F)(F)F)OS(=O)(=O)C(F)(F)F | C14H9F6NO3S
reactant | 3-bromobenzeneboronic acid | 3.74 mmol, 0.751 g | BrC=1C=C(C=CC1)B(O)O | C6H6BBrO2
product | 2-(3-Bromo-phenyl)-4-methyl-6-(4-trifluoromethyl-phenyl)-pyridine | BrC=1C=C(C=CC1)C1=NC(=CC(=C1)C)C1=CC=C(C=C1)C(F)(F)F | C19H13BrF3N
